US06939874B2
A mixture of 2,4-dichloropyrimidine (1.0 g, 6.7 mmol), 3-aminoquinoline (1.1 g, 7.79 mmol) and DIEA (2.0 mL, 11.5 mmol) in IPA (8 mL) was heated to reflux for 48 h. The mixture was poured into EtOAc (200 mL) and washed with H2O (100 mL). The organics were dried over anhydrous Na2SO4 and concentrated under reduced pressure. The crude was purified via medium pressure liquid chromatography using 50:50 EtOAc/hexanes followed by 100% EtOAc followed by 5:95 MeOH/CH2Cl2 followed by 1.0:10:90 conc. NH4OH/MeOH/CH2Cl2 as the solvent system. (2-Chloropyrimidin-4-yl)-quinolin-3-yl-amine was obtained as a tan solid.

reactant | 2,4-dichloropyrimidine | 6.7 mmol, 1.0 g | ClC1=NC=CC(=N1)Cl | C4H2Cl2N2
reactant | 3-aminoquinoline | 7.79 mmol, 1.1 g | NC=1C=NC2=CC=CC=C2C1 | C9H8N2
reactant | DIEA | 11.5 mmol, 2.0 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | EtOAc | 200 mL | CCOC(=O)C | C4H8O2
solvent | IPA | 8 mL | CC(C)O | C3H8O
product | (2-Chloropyrimidin-4-yl)-quinolin-3-yl-amine | ClC1=NC=CC(=N1)NC=1C=NC2=CC=CC=C2C1 | C13H9ClN4
